US05158963
5-Ethoxycarbonyl-3-allyloxycarbonyl-1,4-dihydro-2,6-dimethyl-4-(3-ethynylphenyl)pyridine
In 20 ml of ethyl alcohol was dissolved 1.95 g (15 mmol) of 3-ethynylbenzaldehyde. Thereto were added 1.95 g (15 mmol) of ethyl 3-aminocrotonate and 2.1 g (15 mmol) of allyl acetoacetate, and the admixture was stirred with heating for 16 hours at 80° C. After completing the reaction, the reaction mixture was concentrated to give precipitate. After washing the obtained precipitate with ether, the precipitate was recrystallized from the mixture solution of n-pentane and diethyl ether (n-pentane : diethyl ether=3 : 1 by volume) to give 3.4 g of the desired compound of light yellow needle crystal (yield: 61.5%).

reactant | 3-ethynylbenzaldehyde | 15 mmol, 1.95 g | C(#C)C=1C=C(C=O)C=CC1 | C9H6O
reactant | ethyl 3-aminocrotonate | 15 mmol, 1.95 g | N\C(=C/C(=O)OCC)\C | C6H11NO2
reactant | allyl acetoacetate | 15 mmol, 2.1 g | C(CC(=O)C)(=O)OCC=C | C7H10O3
reactant | ethyl alcohol | 20 ml | C(C)O | C2H6O
product | 5-Ethoxycarbonyl-3-allyloxycarbonyl-1,4-dihydro-2,6-dimethyl-4-(3-ethynylphenyl)pyridine | 3.4 g | C(C)OC(=O)C=1C(C(=C(NC1C)C)C(=O)OCC=C)C1=CC(=CC=C1)C#C | C22H23NO4
